US07005432B2
5-(3-Difluoromethyl-4-fluoro-phenyl)-3-imidazol-1-yl-methyl-pyridazine hydrochloride
The title compound, MS: m/e=305.2 (M+H+), was prepared from 2-(3-difluoromethyl-4-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-imidazol-1-yl-methyl-pyridazine.

reactant | 2-(3-difluoromethyl-4-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC(C=1C=C(C=CC1F)B1OC(C(O1)(C)C)(C)C)F | C13H16BF3O2
reactant | 5-chloro-3-imidazol-1-yl-methyl-pyridazine | ClC=1C(=C(N=NC1)N1C=NC=C1)C | C8H7ClN4
product | 5-(3-Difluoromethyl-4-fluoro-phenyl)-3-imidazol-1-yl-methyl-pyridazine hydrochloride | Cl.FC(C=1C=C(C=CC1F)C=1C(=C(N=NC1)N1C=NC=C1)C)F | InChI=1S/C15H11F3N4.ClH/c1-9-12(7-20-21-15(9)22-5-4-19-8-22)10-2-3-13(16)11(6-10)14(17)18;/h2-8,14H,1H3;1H
